US07625903B2
A round-bottomed flask was charged with 2,4,5-trichloropyrimidine (2.0 g, 6.8 mmol), 2-amino-N-(1-methylethyl)benzamide (1.2 g, 7.1 mmol), di-isopropyl-ethylamine (1.4 mL, 8.1 mmol) and 30 mL isopropanol. The flask was fitted with a reflux condenser and the reaction was heated to reflux and stirred for 18 h. A white solid appeared in the reaction mixture. The reaction was cooled to 0° C. and filtered and solid was washed with diethyl ether to afford 2-[(2,5-dichloro-4-pyrimidinyl)amino]-N-(1-methylethyl)benzamide (2.0 g, 90%)

reactant | 2,4,5-trichloropyrimidine | 6.8 mmol, 2.0 g | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | 2-amino-N-(1-methylethyl)benzamide | 7.1 mmol, 1.2 g | NC1=C(C(=O)NC(C)C)C=CC=C1 | C10H14N2O
reactant | di-isopropyl-ethylamine | 8.1 mmol, 1.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | isopropanol | 30 mL | C(C)(C)O | C3H8O
product | 2-[(2,5-dichloro-4-pyrimidinyl)amino]-N-(1-methylethyl)benzamide | 2.0 g, 90% | ClC1=NC=C(C(=N1)NC1=C(C(=O)NC(C)C)C=CC=C1)Cl | C14H14Cl2N4O
